US04757080
(b) 1,4-Dihydro-2,6-dimethyl-3-isobutoxycarbonyl-4-(3-nitrophenyl)-5-(6-aminohexyloxy)carbonyl-pyridine
Prepared by a method analogous to that of Example 1(b) from 13.28 g (22 mmol) of 1,4-dihydro-2,6-dimethyl-3-isobutoxycarbonyl-4-(3-nitrophenyl)-5-(6-phthalimidohexyloxy)carbonyl-pyridine and 3.3 ml (66 mmol) of hydrazine hydrate. 9.02 g (86%) of a yellow oil.

reactant | 1,4-dihydro-2,6-dimethyl-3-isobutoxycarbonyl-4-(3-nitrophenyl)-5-(6-phthalimidohexyloxy)carbonyl-pyridine | 22 mmol, 13.28 g | CC=1NC(=C(C(C1C(=O)OCC(C)C)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O)C | C33H37N3O8
reactant | hydrazine hydrate | 66 mmol, 3.3 ml | O.NN
product | 1,4-Dihydro-2,6-dimethyl-3-isobutoxycarbonyl-4-(3-nitrophenyl)-5-(6-aminohexyloxy)carbonyl-pyridine | CC=1NC(=C(C(C1C(=O)OCC(C)C)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCCCCCN)C | C25H35N3O6
